US03962224
A mixture of p-nitrobenzyl α-thioformamidodiphenylphosphonoacetate (2.43 g), powdered anhydrous potassium carbonate (2.07 g), 1-chloro-3-methoxy-2-propanone (0.67 g), and acetone (25 ml) is stirred under a nitrogen atmosphere at room temperature for 16 hours. The mixture is filtered and the filtrate evaporated under reduced pressure. The residue is dissolved in methylene chloride, washed twice with water and saturated brine, dried over MgSO4, filtered, and evaporated in vacuo to yield crude p-nitrobenzyl 5-methoxymethyl-6H-1,3-thiazine-4-carboxylate.

reactant | p-nitrobenzyl α-thioformamidodiphenylphosphonoacetate | 2.43 g | C(=S)NC(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])P(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C22H19N2O7PS
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-methoxy-2-propanone | 0.67 g | ClCC(COC)=O | C4H7ClO2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | p-nitrobenzyl 5-methoxymethyl-6H-1,3-thiazine-4-carboxylate | COCC1=C(N=CSC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C14H14N2O5S
